US04148895
This compound was prepared from 2-chloro-1(3-methoxyphenyl)-indole-3-carboxylic acid chloride and morpholine to yield 2-chloro-1-(3-methoxyphenyl)-indole 3-carboxylic acid morpholide which was reacted with N-methyl-piperazine according to Example 42. The yield of amorphous product was 85% of the theoretical yield; the amorpheus hydrochloride had a decomposition point above 160° C.

reactant | 2-chloro-1(3-methoxyphenyl)-indole-3-carboxylic acid chloride | ClC=1N(C2=CC=CC=C2C1C(=O)Cl)C1=CC(=CC=C1)OC | C16H11Cl2NO2
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 2-chloro-1-(3-methoxyphenyl)-indole 3-carboxylic acid morpholide | ClC=1N(C2=CC=CC=C2C1C(=O)N1CCOCC1)C1=CC(=CC=C1)OC | C20H19ClN2O3
